US07576094B2
To a solution of 3-(6′-methoxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinoline]-1′-yl)propan-1-amine (80 mg) prepared as described herein, dissolved in 2 mL dichloromethane, was added benzoic acid (67.6 g), 1,3-dicyclohexylcarbodiimide (68.4 mg), 4-dimethylaminopyridine (18 mg) at room temperature. After 2 hours, more dichloromethane was added and the mixture was filtered. The filtrate was concentrated onto silica gel and purified through a column (Hexane/EtOAc, 10:6-10:7), to give N-(3-(6′-methoxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinoline]-1′-yl)propyl)benzamide (95 mg). Demethylation as described herein gave N-(3-(6′-hydroxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinoline]-1′-yl)propyl)benzamide (62.4 mg, Hexane/EtOAc, 10:12 as a light yellow oil.

reactant | 3-(6′-methoxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinoline]-1′-yl)propan-1-amine | 80 mg | COC=1C=C2CC3(CN(C2=C(C1C)C)CCCN)CCC3 | C18H28N2O
reactant | benzoic acid | 67.6 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1,3-dicyclohexylcarbodiimide | 68.4 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 18 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(3-(6′-methoxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinoline]-1′-yl)propyl)benzamide | 95 mg | COC=1C=C2CC3(CN(C2=C(C1C)C)CCCNC(C1=CC=CC=C1)=O)CCC3 | C25H32N2O2
